series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
R1 in a 1002.260519
R2 a b 1972.767733
R3 a b 2971.255114
C4 b 0 7.64e-06
.op
.control
run
print v(a) v(b) v(in)
print @r1[i] @r2[i] @r3[i]
.endc
.end
